US06156700
Preparation of 3-[3-(6-Hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 3-[3-(6-methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (111 g, 0.248 mol) in methylene chloride is cooled to -5° C., treated over one hour with a 1 M solution of boron tribromide in methylene chloride (322 mL, 0.322 mol), stirred for one hour, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product as a yellow solid (105 g, 98.1%) which is identified by NMR spectral analyses.

reactant | 3-[3-(6-methoxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.248 mol, 111 g | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C21H16F3N3O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.322 mol, 322 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(6-Hydroxy-m-tolyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 105 g, 98.1% | OC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C20H14F3N3O3S
